US08211904B2
Step 3: (5R,7S)-8-(cyclobutylmethyl)-4-{[(1R,2R)-2-fluorocyclohexyl]amino}-1-(3-fluorophenyl)-7-methyl-1,3,8-triazaspiro[4.5]dec-3-en-2-one
To a solution containing 55 mg (0.15 mmol) of (5R,7S)-4-{[(1R,2R)-2-fluorocyclohexyl]amino}-1-(3-fluorophenyl)-7-methyl-1,3,8-triazaspiro[4.5]dec-3-en-2-one and (5R,7S)-4-{[(1S,2S)-2-fluorocyclohexyl]amino}-1-(3-fluorophenyl)-7-methyl-1,3,8-triazaspiro[4.5]dec-3-en-2-one in DMF (1.5 mL) was added powdered K2CO3 (81 mg, 0.58 mmol) and bromomethylcyclobutane (22 mg (0.15 mmol). The solution was heated to 60° C. overnight. The reaction was diluted with water (1.5 mL) and extracted three times with EtOAc. The combined organics were dried over MgSO4, filtered and concentrated then chromatographed using 100% EtOAc to give the desired product which was further purified on a Waters automated system affixed with a Chiralpak AD 5 cm×50 cm cartridge eluting at 80 mL/min with isocratic 20% ethyl alcohol in hexanes with no modifier. The second peak was the product. The salt could be formed as described for the examples in Table 5.

reactant | (5R,7S)-4-{[(1R,2R)-2-fluorocyclohexyl]amino}-1-(3-fluorophenyl)-7-methyl-1,3,8-triazaspiro[4.5]dec-3-en-2-one | 0.15 mmol, 55 mg | F[C@H]1[C@@H](CCCC1)NC1=NC(N([C@]12C[C@@H](NCC2)C)C2=CC(=CC=C2)F)=O | C20H26F2N4O
reactant | (5R,7S)-4-{[(1S,2S)-2-fluorocyclohexyl]amino}-1-(3-fluorophenyl)-7-methyl-1,3,8-triazaspiro[4.5]dec-3-en-2-one | F[C@@H]1[C@H](CCCC1)NC1=NC(N([C@]12C[C@@H](NCC2)C)C2=CC(=CC=C2)F)=O | C20H26F2N4O
reactant | K2CO3 | 0.58 mmol, 81 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | bromomethylcyclobutane | BrCC1CCC1 | C5H9Br
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | water | 1.5 mL | O | H2O
product | (5R,7S)-8-(cyclobutylmethyl)-4-{[(1R,2R)-2-fluorocyclohexyl]amino}-1-(3-fluorophenyl)-7-methyl-1,3,8-triazaspiro[4.5]dec-3-en-2-one | C1(CCC1)CN1[C@H](C[C@@]2(C(=NC(N2C2=CC(=CC=C2)F)=O)N[C@H]2[C@@H](CCCC2)F)CC1)C | C25H34F2N4O
